US04372956
(d) N-(2,2-dimethoxyethyl)-2-amino-4,5-dimethoxy-benzylamine (III)
1.2 g of N-(2,2-dimethoxyethyl)-2-nitro-4,5-dimethoxybenzylamine are dissolved in 20 ml of ethanol, and then hydrogenated at room temperature and at normal pressure, in the presence of 300 mg of palladium catalyst (10% on carbon). After filtering off the catalyst and evaporating the filtrate, the heading compound remains as an almost colourless oil, which is used in the next stage (e) without further purification.

reactant | N-(2,2-dimethoxyethyl)-2-nitro-4,5-dimethoxybenzylamine | 1.2 g | COC(CNCC1=C(C=C(C(=C1)OC)OC)[N+](=O)[O-])OC | C13H20N2O6
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium | 300 mg | [Pd] | Pd
product | N-(2,2-dimethoxyethyl)-2-amino-4,5-dimethoxy-benzylamine | COC(CNCC1=C(C=C(C(=C1)OC)OC)N)OC | C13H22N2O4
